US07199243B2
3-(3-Methoxyphenyl)pyridine
3-bromo anisole (17.4 g, 93.03 mmol) was dissolved in 650 mL tetrahydrofuran and 210 mL water in a 2 L round bottom flask equipped with a magnetic stirrer. Diethyl-(3-pyridyl)borane (15.73 g, 106.99 mmol), sodium carbonate (44.4 g, 418.64 mmol) and dichlorobis(triphenylphosphine)palladium (II) (9.8 g, 13.95 mmol) were added and the mixture heated at reflux for 4 h then cooled to ambient temperature. The mixture was diluted with 300 mL water and extracted with diethyl ether (2×300 mL). The extracts were combined and dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resultant oil was purified by flash chromatography (1:1 ethyl acetate/hexanes). Product fractions were concentrated under reduced pressure to yield 17.75 g (99%) of the desired compound as a pale yellow oil.

reactant | 3-bromo anisole | 93.03 mmol, 17.4 g | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | Diethyl-(3-pyridyl)borane | 106.99 mmol, 15.73 g | C(C)B(C=1C=NC=CC1)CC | C9H14BN
reactant | sodium carbonate | 418.64 mmol, 44.4 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 650 mL | O1CCCC1 | C4H8O
solvent | water | 300 mL | O | H2O
catalyst | dichlorobis(triphenylphosphine)palladium | 13.95 mmol, 9.8 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 210 mL | O | H2O
product | 3-(3-Methoxyphenyl)pyridine | 17.75 g, 99% | COC=1C=C(C=CC1)C=1C=NC=CC1 | C12H11NO
